US04831151
A solution of 19.9 g (0.1 mol) of 1-benzylideneamino-2-ethyl-imidazole in 200 ml of 1.5N hydrochloric acid is subjected to a steam distillation until benzaldehyde no longer results. The mixture is evaporated and the product obtained is recrystallized from ethanol/ether. There are obtained 14.5 g of 1-amino-2-ethylimidazole hydrochloride of melting point 90°-91°.

reactant | 1-benzylideneamino-2-ethyl-imidazole | 0.1 mol, 19.9 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)CC | C12H13N3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 1.5N, 200 ml | Cl | ClH
product | 1-amino-2-ethylimidazole hydrochloride | 14.5 g | Cl.NN1C(=NC=C1)CC | InChI=1S/C5H9N3.ClH/c1-2-5-7-3-4-8(5)6;/h3-4H,2,6H2,1H3;1H
